US06531491B1
[2-(4-Bromo-2-chloro-5-methyl-phenoxymethoxy)-ethyl]-trimethyl-silane was prepared in 83% yield from 4-bromo-3-chloro-5-methyl-phenol according to the procedure for [2-(4-bromo-2-methoxy-5-methyl-phenoxymethoxy)-ethyl]-trimethyl-silane. 1H NMR (300 MHz, CDCl3) δ 7.51 (s, 1H), 7.09 (s, 1H), 5.26 (s, 2H), 3.79 (t, 2H, J=8.4 Hz), 2.35 (s, 3H), 0.95 (t, 2H, J=8.4 Hz), 0.02 (s, 9H). Anal. (C13H20ClBrO2Si) C, H. Calculated: C, 44.39; H, 5.73. Found: C, 45.08; H, 5.91.

reactant | 4-bromo-3-chloro-5-methyl-phenol | BrC1=C(C=C(C=C1C)O)Cl | C7H6BrClO
reactant | [2-(4-bromo-2-methoxy-5-methyl-phenoxymethoxy)-ethyl]-trimethyl-silane | BrC1=CC(=C(OCOCC[Si](C)(C)C)C=C1C)OC | C14H23BrO3Si
product | [2-(4-Bromo-2-chloro-5-methyl-phenoxymethoxy)-ethyl]-trimethyl-silane | 83% yield | BrC1=CC(=C(OCOCC[Si](C)(C)C)C=C1C)Cl | C13H20BrClO2Si
